US08022075B2
4-(1,3-Oxazol-5-yl)benzaldehyde (38)
Pyridinium chlorochromate (517 mg) and Celite (3 g) were suspended in dichloromethane (20 mL), and a solution of [4-(1,3-oxazol-5-yl)phenyl]methanol (280 mg) in dichloromethane (5 mL) was added to the suspension, followed by stirring at room temperature overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified through flash column chromatography (n-hexane:ethyl acetate=2:1), followed by concentration, to thereby yield the title compound (115 mg).

reactant | Pyridinium chlorochromate | 517 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | [4-(1,3-oxazol-5-yl)phenyl]methanol | 280 mg | O1C=NC=C1C1=CC=C(C=C1)CO | C10H9NO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(1,3-Oxazol-5-yl)benzaldehyde | 115 mg | O1C=NC=C1C1=CC=C(C=O)C=C1 | C10H7NO2
